US08252781B2
Preparation of 1-(3,5-difluorobenzyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 3,5-difluorobenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a white crystalline powder.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 3,5-difluorobenzyl bromide | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
product | 1-(3,5-difluorobenzyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | FC=1C=C(CN2N(C(C2(C)C)=O)C2C3CC4CC(CC2C4)C3)C=C(C1)F | C21H26F2N2O
